US06004977
2,3-Dihydro-2-(4-pyridinylamino)-1H-isoindol-5-yl 1,2,3,4-tetrahydroisoquinolin-2-ylcarbamate 1/4 hydrate
To a mixture of 2,3-dihydro-2-(4-pyridinylamino)-1H-isoindol-5-ol (1.50 g), triethylamine (1.47 g), and chloroform (15 ml), 1,2,3,4-tetrahydroisoquinolin-2-ylcarbamyl chloride (1.55 g) in chloroform (10 ml) was added dropwise with stirring, under nitrogen, at ambient temperature. The reaction mixture was stirred under reflux for 3 hrs, at ambient temperature overnight and poured into dilute sodium bicarbonate solution. The layers were separated. The aqueous phase was extracted with chloroform, and the combined organic extracts were dried over anhydrous sodium sulfate, filtered, and the filtrate was evaporated in vacuo. The residue was chromatographed on silica, eluting with 7% methanol-dichloromethane followed by 185:14:1 dichloromethane-methanol-ammonium hydroxide. The appropriate fractions were collected and evaporated. The residue was recrystallized from ethanol-toluene to give 800 mg (31%) of product, mp 162-163° C.

reactant | 2,3-dihydro-2-(4-pyridinylamino)-1H-isoindol-5-ol | 1.50 g | N1=CC=C(C=C1)NN1CC2=CC=C(C=C2C1)O | C13H13N3O
reactant | triethylamine | 1.47 g | C(C)N(CC)CC | C6H15N
reactant | 1,2,3,4-tetrahydroisoquinolin-2-ylcarbamyl chloride | 1.55 g | C1N(CCC2=CC=CC=C12)NC(=O)Cl | C10H11ClN2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-Dihydro-2-(4-pyridinylamino)-1H-isoindol-5-yl 1,2,3,4-tetrahydroisoquinolin-2-ylcarbamate | 800 mg, 31% | C1N(CCC2=CC=CC=C12)NC(OC=1C=C2CN(CC2=CC1)NC1=CC=NC=C1)=O | C23H23N5O2
